US06706725B1
d) Ethyl (E)-5-(4-Bromo-2-thienyl)-4-heptenoate
16.6 g (57 mmol) of (E)-5-(4-bromo-2-thienyl)-4-heptenoic acid are dissolved in 150 mL of absolute ethanol and 1 mL of concentrated sulphuric acid is added. The mixture is refluxed for 2 hours and then cooled. After the usual treatment and chromatography on silica gel, the desired product is obtained in the form of a yellow oil (m=14.1 g; Y=77%).

reactant | (E)-5-(4-bromo-2-thienyl)-4-heptenoic acid | 57 mmol, 16.6 g | BrC=1C=C(SC1)/C(=C/CCC(=O)O)/CC | C11H13BrO2S
reactant | sulphuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 150 mL | C(C)O | C2H6O
product | Ethyl (E)-5-(4-Bromo-2-thienyl)-4-heptenoate | BrC=1C=C(SC1)/C(=C/CCC(=O)OCC)/CC | C13H17BrO2S
